US05728828
STEP A: 3-formyl-6-hydroxy-5-methoxy benzonitrile
A mixture of 23.1 g of 3-bromo-4-hydroxy-5-methoxy benzaldehyde, 9.3 g of cuprous cyanide and 140 ml of dimethyl acetamide (DMA) was refluxed for 2 hours with stirring. After cooling, the mixture was poured over ice and extract&d with an ethyl acetate--methanol mixture (90-10). The organic phase was washed and dried and the solvents were eliminated to obtain 18 g of crude product, which was used as is for the following step. It melted at 180° C.

reactant | 3-bromo-4-hydroxy-5-methoxy benzaldehyde | 23.1 g | BrC=1C=C(C=O)C=C(C1O)OC | C8H7BrO3
reactant | dimethyl acetamide | 140 ml | CC(=O)N(C)C | C4H9NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
product | 3-formyl-6-hydroxy-5-methoxy benzonitrile | 18 g | C(=O)C=1C=C(C#N)C(=C(C1)OC)O | C9H7NO3
